US06686353B1
Synthesis of 1-(3,3-Diphenylpropyl)-4-(4-nitrobenzyl)homopiperazine (Compound No. 23)
The resulting 1-(3,3-diphenylpropyl )homopiperazine was dissolved in 3 mL of acetonitrile followed by adding 213 mg of 4-nitrobenzyl bromide and 144 mg of potassium carbonate. The mixture was stirred at 70° C. for 14 hours and allowed to cool to room temperature and the solvent was removed under reduced pressure. 20 mL of aqueous 2N sodium hydroxide was added and the mixture was extracted with 20 mL×2 of ethyl acetate. The organic layers were combined, washed with 20 mL of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, concentrated, and purified by column chromatography (silica gel, ethyl acetate) to obtain 255 mg of the titled compound. This was treated with a hydrogen chloride solution in ether and the solvent was removed under reduced pressure; and the residue was dried to obtain the hydrochloride salt of the titled compound.

reactant | 1-(3,3-diphenylpropyl )homopiperazine | C1(=CC=CC=C1)C(CCN1CCNCCC1)C1=CC=CC=C1 | C20H26N2
reactant | 4-nitrobenzyl bromide | 213 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 144 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(3,3-Diphenylpropyl)-4-(4-nitrobenzyl)homopiperazine | 255 mg | C1(=CC=CC=C1)C(CCN1CCN(CCC1)CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C27H31N3O2
